US08835409B2
Preparation of methyl 4-amino-6-chloro-5-fluoro-3-(1-fluorovinyl)picolinate (Compound 6)
Methyl 4-amino-6-chloro-5-fluoro-3-iodopicolinate (0.4 g, 1.210 mmol), tributyl(1-fluorovinyl)stannane (0.608 g, 1.816 mmol), and bis(triphenyl-phosphine)palladium(II) chloride (0.127 g, 0.182 mmol) were combined in dichloroethane (2.4 mL) and stirred at 70° C. overnight. The reaction mixture was concentrated onto celite and purified by flash column chromatography (SiO2, hexanes/EtOAc gradient) to afford the title compound (211 mg, 0.849 mmol, 70.1% yield) as a yellow solid: mp 98-100° C.; 1H NMR (400 MHz, CDCl3) δ 5.28 (dd, J=15.0, 3.6 Hz, 1H), 4.94 (s, 2H), 4.81 (dd, J=47.3, 3.6 Hz, 1H), 3.93 (s, 3H); 19F NMR (376 MHz, CDCl3) δ −89.04, −138.74; ESIMS m/z 249 [(M+H]+).

reactant | Methyl 4-amino-6-chloro-5-fluoro-3-iodopicolinate | 1.210 mmol, 0.4 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)I | C7H5ClFIN2O2
reactant | tributyl(1-fluorovinyl)stannane | 1.816 mmol, 0.608 g | C(CCC)[Sn](C(=C)F)(CCCC)CCCC
solvent | dichloroethane | 2.4 mL | ClC(C)Cl | C2H4Cl2
catalyst | bis(triphenyl-phosphine)palladium(II) chloride | 0.182 mmol, 0.127 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 4-amino-6-chloro-5-fluoro-3-(1-fluorovinyl)picolinate | 0.849 mmol, 211 mg, 70.1% yield | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)C(=C)F | C9H7ClF2N2O2
